US07223788B2
1-(2-Acetylamino-4-chlorophenyl)piperidine-4-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)phenyl]methylamide
Palladium on carbon (10%; 10 mg) was added to a solution of 1-(4-chloro-2-nitro-phenyl)piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]methylamide (50 mg) in glacial acetic acid (5 ml). The solution was stirred under a hydrogen atmosphere (1 bar), and acetic anhydride (14 μl) was added. After one hour, further acetic anhydride (6 μl) were added and the mixture was stirred for 15 minutes. The suspension was filtered and the filtrate was concentrated. The residue was purified by chromatography (silica gel, eluent: ethyl acetate/ammonia (7N in methanol)). This resulted in the product with the molecular weight of 498.07 (C27H36ClN5O2); MS (ESI): 498 (M+H+).

reactant | 1-(4-chloro-2-nitro-phenyl)piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]methylamide | 50 mg | CN(C1CN(CC1)C1=CC=C(C=C1)CNC(=O)C1CCN(CC1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])C | C25H32ClN5O3
reactant | acetic anhydride | 14 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 6 μl | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Palladium on carbon | 10 mg | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Acetylamino-4-chlorophenyl)piperidine-4-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)phenyl]methylamide | CN(C1CN(CC1)C1=CC=C(C=C1)CNC(=O)C1CCN(CC1)C1=C(C=C(C=C1)Cl)NC(C)=O)C | C27H36ClN5O2
